US07705027B2
Hydroxylamine hydrochloride (0.7 g, 10 mmol) was added to a suspension of 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one [prepared analogously to Example 1, Step 2] (0.32 g, 1.0 mmol) in pyridine (4 ml) and the mixture heated under reflux for ˜6 hrs., to give a pale yellow solution. The solution was allowed to cool and water (20 ml) added. The mixture was extracted with diethyl ether (2×10 ml). The combined extracts were washed with water (2×20 ml) and saturated aqueous sodium chloride solution (10 ml). The solution was dried over anhydrous magnesium sulphate and concentrated. The crude products were purified by column chromatography, silica, eluting with ethyl acetate/hexane (1:1), to give 4-chloro-6-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzene-1,3-diol as an off-white powder (0.103 g)

reactant | Hydroxylamine hydrochloride | 10 mmol, 0.7 g | Cl.NO
reactant | 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-2-methyl-chromen-4-one | ClC=1C=C2C(C(=C(OC2=CC1O)C)C1=CC=C(C=C1)OC)=O | C17H13ClO4
reactant | water | 20 ml | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-6-[4-(4-methoxy-phenyl)-3-methyl-isoxazol-5-yl]-benzene-1,3-diol | 0.103 g | ClC1=C(C=C(C(=C1)C1=C(C(=NO1)C)C1=CC=C(C=C1)OC)O)O | C17H14ClNO4
